US07981918B2
Step 1) Dissolve commercially available 5-nitroindazole (100 g, 613 mmoles) in 2 L of THF and then add triethylamine (260 mL; 1.87 moles). Stir the solution at room temp until all the solid went into the solution, and then add acetic acid anhydride (94 g; 927 mmoles). After 2 h at room temperature, add 2 L of EtOAc and extract the mixture with 1 N HCl (2×800 mL). Wash the organic layer with aqueous sodium bicarbonate followed by saturated aqueous NaCl. Dry the organic layer with magnesium sulfate and concentrate to a thick slurry. Add t-Butyl methyl ether (300 mL) and filter the slurry. Collect the solid, rinse with t-butyl methyl ether, and dry under vacuum to afford 113 g (90%) of 1-(5-nitro-indazol-1-yl)-ethanone a pale yellow solid. 1H NMR (500 MHz, CDCl3) δ 8.70 (d, 1H, J=2.0 Hz), 8.58 (d, 1H, J=9.5 Hz), 8.44 (dd, 1H J=7.0, 2.0 Hz), 8.31 (s, 1H), 2.84 (s, 1H).

reactant | 5-nitroindazole | 613 mmoles, 100 g | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
reactant | triethylamine | 1.87 moles, 260 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid anhydride | 927 mmoles, 94 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | EtOAc | 2 L | CCOC(=O)C | C4H8O2
solvent | THF | 2 L | C1CCOC1 | C4H8O
product | 1-(5-nitro-indazol-1-yl)-ethanone | 113 g, 90% | [N+](=O)([O-])C=1C=C2C=NN(C2=CC1)C(C)=O | C9H7N3O3
